US04031099
b. 4-Hydroxy-7-methyl-5,6,7,8-tetrahydrocarbostyril
A suspension of 3-carboethoxy-4-hydroxy-7-methyl-5,6,7,8-tetrahydrocarbostyril (7.48 g; 0.03 mole) in 2N hydrochloric acid (50 ml) was refluxed 48 hrs. and the clear solution evaporated to dryness. After resolution in water and adjusting to pH 4.0 the precipitated white solid was filtered, washed well with water and recrystallised from acetic acid, m.p. >360° .

reactant | 3-carboethoxy-4-hydroxy-7-methyl-5,6,7,8-tetrahydrocarbostyril | 0.03 mole, 7.48 g | C(=O)(OCC)C=1C(NC=2CC(CCC2C1O)C)=O | C13H17NO4
solvent | hydrochloric acid | 2N, 50 ml | Cl | ClH
product | 4-Hydroxy-7-methyl-5,6,7,8-tetrahydrocarbostyril | OC1=CC(NC=2CC(CCC12)C)=O | C10H13NO2
